US05391318
2.00 g (5.81 mmol) of 2-undecyl-5-(3-fluoro-4-hydroxyphenyl) pyrimidine, 0.60 g of varerianic acid and 50 ml of dichloromethane were placed in a 200 ml short-neck flask so that they were dissolved. Then, 1.21 g (5.86 mmol) of N,N'-dicyclohexylcarbodiimide and 0.10 g of 4-pyrolizilpyridine were successively added and stirred at room temperature for 4 hours and 45 minutes. After the stirring, the deposited N,N'-dicyclohexyl-urea was removed by filtration and the filtrate was solidified by reducing the pressure. The residue was refined by the silica gel column chromatography method which uses toluene/ethyl acetate: 100/1 as the eluate before it was recrystallized twice by an acetone-methanol mixed solvent so that 1.91 g (yield 76.8%) of 2-undecyl-5-(3-fluoro-4-pentanoyloxyphenyl) pyrimidine was obtained.

reactant | 2-undecyl-5-(3-fluoro-4-hydroxyphenyl) pyrimidine | 5.81 mmol, 2.00 g | C(CCCCCCCCCC)C1=NC=C(C=N1)C1=CC(=C(C=C1)O)F | C21H29FN2O
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | N,N'-dicyclohexylcarbodiimide | 5.86 mmol, 1.21 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetone methanol | CC(=O)C.CO
product | 2-undecyl-5-(3-fluoro-4-pentanoyloxyphenyl) pyrimidine | 1.91 g, yield 76.8% | C(CCCCCCCCCC)C1=NC=C(C=N1)C1=CC(=C(C=C1)OC(CCCC)=O)F | C26H37FN2O2
